US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(9-xanthenecarbonyl)-L-lysine (Compound No. 96)
Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine was reacted with xanthene-9-carboxylic acid under the conditions described in example 86 to yield the desired product.

reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H25N3O6S
reactant | xanthene-9-carboxylic acid | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)O | C14H10O3
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(9-xanthenecarbonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCNC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C30H33N3O8S
